Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Heroin overdose
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with a h/o polysubstance abuse and multiple prior 
overdoses who was found down in the bathroom ___ in 
the setting of opioid overdose. He tells me he recently got out 
of prison ___ after 10 months. He was clean during his jail 
time. He relapsed with an Overdose each of the last 3 days. He 
denies using any other substances, including alcohol. He reports 
using his heroin via injection. He was previously on Suboxone, 
but not recently. He has a h/o PTSD, Anxiety, and Depression, 
but is not currently on any therapy for these.  
 On the scene was given 2mg intranasal narcan and required 
approx. 7min BMV. Pt then reported nausea en route and desatted 
to ___ on NRB en route.  
 In the ED, initial vitals were: 98.7, HR 98, 138/80, RR 20, 
high 80's room air.  
 ED course notable for a Tmax of 100.0.  
 
 Labs notable for Na 130, AST 109  
 Imaging notable for CXR with possible aspiration PNA  
 Patient was given 1L NS, 3g Unasyn  
 Decision was made to admit for hypoxia as he was unable to be 
weaned to RA  
 On the floor, he feels better, denies new complaint at this 
time. Denies feeling short of breath.  
 
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
 Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.  
 
Past Medical History:
 - Opioid use, with many prior psychiatric and substance abuse 
treatment admissions  
 - Hepatitis C, PTSD, Anxiety, and Depression per pt  
 
Social History:
___
Family History:
 Denies any positives.  
 
Physical Exam:
ADMIT PHYSICAL
=============
 Vital Signs: 97.9, 109 / 57, 57, 18, 96 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear. Pupils 4mm and 
reactive bilaterally.  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
 Lungs: Clear to auscultation bilaterally, no resp distress  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no edema  
 Neuro: CNII-XII intact grossly, gait intact, answers questions 
appropriately  

DISCHARGE PHYSICAL
=================
 Vitals: 98 122/61 54 18 95 RA  
 General: Somnolent young male in NAD, no difficulty breathing 
 HEENT: Sclerae anicteric.  Pupils 4mm ERRL, EOMI.  OP clear of 
lesions, MMM.  
 Lymph: No cervical, submandibular, supraclavicular LAD.  
 CV: Soft S1, prominent S2, RRR, no MRG  
 Lungs: Good inspiratory effort, CTABL.
 Abdomen: Soft, NABS, NTND, no HSM. 
 Ext: WWP, 1+ pulses throughout, no ___.
 Neuro: AOx3, grossly non focal.  
 Skin: No rashes.  Small dried areas of scab on L forearm.   
 
Pertinent Results:
ADMIT LABS
==========
___ 04:30PM BLOOD WBC-5.6 RBC-4.66 Hgb-14.2 Hct-42.6 MCV-91 
MCH-30.5 MCHC-33.3 RDW-12.8 RDWSD-41.7 Plt ___
___ 04:30PM BLOOD Neuts-40.7 ___ Monos-10.7 Eos-2.3 
Baso-0.4 NRBC-0.4* Im ___ AbsNeut-2.28 AbsLymp-2.56 
AbsMono-0.60 AbsEos-0.13 AbsBaso-0.02
___ 04:30PM BLOOD Plt ___
___ 04:30PM BLOOD Glucose-232* UreaN-15 Creat-1.2 Na-130* 
Cl-96 HCO3-21*
___ 04:30PM BLOOD ALT-36 AST-109* AlkPhos-50 TotBili-0.4
___ 04:30PM BLOOD Albumin-4.2
___ 05:18PM BLOOD K-4.2
___ 04:48PM BLOOD K-6.3*
___ 10:15PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO
=====
NONE

IMAGING
=======
CXR ___
FINDINGS: 
There are hazy bilateral upper lobe predominant opacities, left 
greater than
right.  Based on a supine film there is no definite effusion or 
pneumothorax. 
The cardiomediastinal silhouette is within normal limits.  No 
acute osseous
abnormalities.
IMPRESSION: 
Hazy in bilateral parenchymal opacities, left greater than right 
which could
represent atelectasis versus aspiration in the setting of 
overdose.

DISCHARGE LABS
==============
NONE

 
Brief Hospital Course:
Patient is a ___ with history of IV heroin abuse who presented 
after being found down, the result of heroin overdose.

# Hypoxia - Hypoventilation certainly a contributing factor 
given opiate overdose. Continued desaturation to ___, however, 
was concerning for additional causes, especially in setting of 
CXR with UL hazy opacities. Would expect aspiration PNA more in 
the bases and with hx of vomiting, though could not rule this 
out given overdose. Patient did report throat discomfort, which 
may have indicated reflux of stomach contents. Patient was 
afebrile and HD stable, no leukocytosis. Chemical pneumonitis 
also a possibility. Patient initially received Unasyn in ED, 
d/c'd given no fever and otherwise well appearing. Patient was 
satting in mid to high ___ on room air prior to leaving AMA. 
Risks and benefits of leaving AMA explained thoroughly to 
patient [risks(infection, difficulty breathing, undiagnosed 
kidney/liver problems) and benefits (thorough diagnostic 
work-up, social work involvement for a safer discharge)]. 

# Heroin Abuse - Tox screen positive for only opiates. Patient 
recently released from jail, shortly began using heroin again 
(he reportedly did NOT use while in jail). Previously on 
suboxone, last filled prescription ___. Social work was 
consulted but patient decided to leave AMA. He receive IN Narcan 
prescription prior to leaving.

# Hyponatremia - 130, though 132-133 when corrected for glucose. 
Possibly hypovolemic hyponatremia given that patient was likely 
not eating/drinking much of anything while using heroin. Patient 
refused subsequent lab draws and left AMA. 

# Abnormal LFTs - No historical labs, AST elevated at 109. 
Patient reported past history of HepC, untreated. Hx of IVDU and 
prison tattoos. Isolated AST elevation also possibly hemolyzed 
specimen.

# Elevated Cr to 1.2 - Unclear etiology.  Rhabdo is a 
possibility given overdose (he possibly fell), planned to check 
CK but patient left AMA.

TRANSITONAL ISSUES
==================
-Patient left AMA without social work intervention, got Narcan 
script prior to leaving
-Reported history of Hepatitis C
-Cr elevated to 1.2, patient left AMA
 
Medications on Admission:
None
 
Discharge Medications:
1.  nalOXone 4 mg/actuation nasal ONCE:PRN 
RX *naloxone [Narcan] 4 mg/actuation 1 once Disp #*1 Spray 
Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Opiate overdose
Hypoxia
Transaminitis
Hyponatremia

Secondary Diagnosis
===================
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you overdosed on 
opiates.  You received Narcan before getting to the hospital to 
reverse the effects of the drug.  You started breathing normally 
again but you still had low levels of oxygen.  you received 
supplemental oxygen and seemed to improve.  you had a chest Xray 
which suggested that you might have aspirated some bacteria into 
your lungs while unconscious.  You received some antibiotics, 
but these were stopped before you left the hospital because you 
didn't have any other signs of infection.

We wanted to monitor your blood labs given that there were some 
abnormalities in your electrolytes, kidney, and liver 
functioning.  You refused these labs and stated you wanted to 
leave the hospital.  We explained the risks (infection, 
difficulty breathing, undiagnosed kidney/liver problems) and 
benefits (thorough diagnostic work-up, social work involvement 
for a safer discharge) of leaving against medical advice.  You 
ultimately decided, however, to leave against medical advice.

You received a prescription for Narcan before leaving the 
hospital.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___